US05098929
2,2-Dimethyl-5-ethyl-5-hydroxymethyl-1,3-dioxane (10 g.) was added to a stirred suspension of sodium hydride (2.4 g., 50% dispersion in oil) in dry tetrahydrofuran (80 ml.) The mixture was refluxed with stirring for one hour. Benzyl chloride (9.2 ml.) was added and the mixture was refluxed with stirring for three hours. the mixture was poured into water and the aqueous mixture was extracted with ether. The ethereal extract was washed with water, dried over anhydrous magnesium sulphate and evaporated in vacuo. 5-Benzyloxymethyl-2,2-dimethyl-5-ethyl-1,3-dioxane was obtained as a pale brown oil (15 g.) and was used without further purification.

reactant | 2,2-Dimethyl-5-ethyl-5-hydroxymethyl-1,3-dioxane | 10 g | CC1(OCC(CO1)(CO)CC)C | C9H18O3
reactant | sodium hydride | 2.4 g | [H-].[Na+]
reactant | Benzyl chloride | 9.2 ml | C(C1=CC=CC=C1)Cl | C7H7Cl
reactant | water | O | H2O
solvent | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
product | 5-Benzyloxymethyl-2,2-dimethyl-5-ethyl-1,3-dioxane | C(C1=CC=CC=C1)OCC1(COC(OC1)(C)C)CC | C16H24O3
